US04956382
(C) 2-Bromomethyl-5-nitrobenzofuran
N-Bromosuccinimide (1 1 g, 6.2 mmole) was added portionwise to a solution of 2-methyl-5-nitrobenzofuran (1.0 g, 5.6 mmole) and benzoyl peroxide (50 mg) in carbon tetrachloride (50 ml) and the reaction mixture was heated at reflux temperature for 6 hours in the presence of bright light. The reaction mixture was then cooled, filtered and the filtrate evaporated to dryness. The residue was recrystallised from petroleum ether to give the title compound yield 0.75 g, m.p. 96°-98°.

reactant | N-Bromosuccinimide | 6.2 mmole, 1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-5-nitrobenzofuran | 5.6 mmole, 1.0 g | CC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H7NO3
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 50 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethyl-5-nitrobenzofuran | yield 0.75 g | BrCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H6BrNO3
